US07790915B2
A mixture of 10.00 g (=47.33 mmol) of 2-bromonaphthalene, 7.95 g (=56.82 mmol) of 3-fluorophenylboric acid, 9.81 g (=70.98 mmol) of K2CO3, 3.81 g (=11.82 mmol) of tetrabutylammonium bromide, 1.00 g (=1.42 mmol) of dichlorobis(triphenylphosphine) palladium(II), 0.76 g (=2.84 mmol) of triphenylphosphine and a 100 ml mixed solvent of toluene/water/ethanol in a ratio of 1:1:1 was stirred for 7 hours with reflux. The reaction mixture obtained was extracted twice with toluene. The extract was washed thrice with water and then dried with anhydrous MgSO4. After the solvent was evaporated under a reduced pressure, the obtained black solid of 15.40 g was purified with silica gel chromatography using heptane/toluene in a ratio of 5:1 as the eluent, thereby obtaining a white solid of 10.98 g. The white solid was recrystallized with a mixed solvent of Solumix/heptane in a ratio of 1:1 to obtain 8.90 g of 2-(3-fluorophenyl)naphthalene as white crystals.

reactant | 2-bromonaphthalene | 47.33 mmol, 10.00 g | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
reactant | 3-fluorophenylboric acid | 56.82 mmol, 7.95 g | FC=1C=C(C=CC1)OB(O)O | C6H6BFO3
reactant | K2CO3 | 70.98 mmol, 9.81 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | tetrabutylammonium bromide | 11.82 mmol, 3.81 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | triphenylphosphine | 2.84 mmol, 0.76 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene water ethanol | C1(=CC=CC=C1)C.O.C(C)O
product | 2-(3-fluorophenyl)naphthalene | 8.90 g | FC=1C=C(C=CC1)C1=CC2=CC=CC=C2C=C1 | C16H11F
